US07851493B2
To a suspension of 53.3 mg of 3-{4-[4-aminomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-1,2,4-oxadiazol-5-one in 1 mL of dichloromethane was added 27 mg of pyridine and 19 mg of acetic anhydride. The resulting mixture was stirred for 1.5 h at room temperature and then a drop of pyridine and acetic anhydride were added. After stirring for 25 minutes at room temperature, it was poured into water and extracted with dichloromethane. The organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from dichloromethane 100 to dichloromethane 90/methanol 10/water 1/acetic acid 1) to give 6.2 mg of N-[5-[3-fluoro-4-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl]-acetamide.

reactant | 3-{4-[4-aminomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-fluoro-phenyl}-4H-1,2,4-oxadiazol-5-one | 53.3 mg | NCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)F)C1=CC=C(C=C1)C(F)(F)F | C20H14F4N4O3S
reactant | pyridine | 27 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 19 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-[5-[3-fluoro-4-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl]-acetamide | 6.2 mg | FC=1C=C(OCC2=C(N=C(S2)C2=CC=C(C=C2)C(F)(F)F)CNC(C)=O)C=CC1C1=NOC(N1)=O | C22H16F4N4O4S
